US09428469B2
N5-(5-chloro-2-(trifluoromethyl)benzyl)-N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine (Compound 4)
A solution of N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine Intermediate 2 (70 mg, 287 μmol) and 5-chloro-2-(trifluoromethyl)benzaldehyde (85 mg, 408 μmol) in MeOH (3 ml) was stirred at 45° C. for two days to give a suspension, cooled to −20° C. and was filtered to collect the solid. The solid was re-suspended in MeOH (5 ml), NaBH4 (65.1 mg, 1.72 mmol) was added and the reaction was stirred for 1 hour. The solvent was removed, and the reaction mixture was redissolved in EtOAc (5 ml) and washed with water (2×4 ml), dried over MgSO4 and concentrated. Trituration with hexanes afforded a white solid as desired product (88 mg, 70% yield). MS +m/z: 436 (M+H)+

reactant | N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | ClC=1C=C(C=C(C1)Cl)NC1=NNC(=N1)N | C8H7Cl2N5
reactant | 5-chloro-2-(trifluoromethyl)benzaldehyde | 408 μmol, 85 mg | ClC=1C=CC(=C(C=O)C1)C(F)(F)F | C8H4ClF3O
reactant | NaBH4 | 1.72 mmol, 65.1 mg | [BH4-].[Na+]
solvent | MeOH | 3 ml | CO | CH4O
product | N5-(5-chloro-2-(trifluoromethyl)benzyl)-N3-(3,5-dichlorophenyl)-1H-1,2,4-triazole-3,5-diamine | 88 mg, 70% yield | ClC=1C=CC(=C(CNC2=NC(=NN2)NC2=CC(=CC(=C2)Cl)Cl)C1)C(F)(F)F | C16H11Cl3F3N5
